US04128650
7-Hydroxy-5,6-dihydro-4H-dibenzo[de,h]quinoline (16.4 g) and Adams platinum (2.78 g) suspended in acetic acid (400 cc) are placed under an initial hydrogen pressure of 25 bars at 25° C. The mixture is stirred and heated at 65° C. for 24 hours. After cooling to 25° C., the catalyst is filtered off and washed three times with acetic acid (total 200 cc). The combined organic filtrates are evaporated to dryness. The residue is taken up in water (500 cc) and the mixture is neutralised by the addition of a 10% (w/v) aqueous sodium bicarbonate solution (50 cc). The precipitate is filtered off, washed three times with distilled water (total 600 cc) and dried under reduced pressure. The crystalline product thus obtained (17 g) is combined with a portion (7.4 g) of product prepared in the same way, the whole is recrystallised from butyl acetate (550 cc). After cooling for 48 hours at about 5° C., the resulting crystals are filtered off, washed twice with diethyl ether (total 75 cc) and dried under reduced pressure (1 mm Hg) at 100° C. The product obtained (18.5 g) is recrystallised a second time from propanol (360 cc). After cooling for 48 hours at about 5° C., the crystals are filtered off, washed twice with diethyl ether (total 75 cc) and dried under reduced pressure (1 mm Hg) at 100° C. for 4 hours. 7-Hydroxy-5,6,8,9,10,11-hexahydro-4H-dibenzo[de,h]-quinoline (14.5 g), melting at 224° C., is thus obtained.

reactant | 7-Hydroxy-5,6-dihydro-4H-dibenzo[de,h]quinoline | 16.4 g | OC1=C2C=3C(=CC=NC3C3=C1C=CC=C3)CCC2 | C16H13NO
solvent | acetic acid | 400 cc | C(C)(=O)O | C2H4O2
catalyst | platinum | 2.78 g | [Pt] | Pt
product | 7-Hydroxy-5,6,8,9,10,11-hexahydro-4H-dibenzo[de,h]-quinoline | 14.5 g | OC1=C2C=3C(=CC=NC3C3=C1CCCC3)CCC2 | C16H17NO
